US07897643B2
To a solution of 4-benzyl-3-[2-(5-hydroxy-4′-trifluoromethyl-biphenyl-3-yl)-4-methyl-pentanoyl]-oxazolidin-2-one (18.77 g, 36.73 mmol) in acetonitrile (184 mL) at 0° C. was added 1-bromomethyl-3,5-difluoro-benzene (7.13 mL, 55.10 mmol) and Cs2CO3 (23.94 g, 73.46 mmol) in portions over 5 minutes. The resulting white suspension was stirred at room temperature for 2 h. The white solid was filtered off and the solvent was removed in vacuo to obtain relatively pure 4-benzyl-3-{2-[5-(3,5-difluoro-benzyloxy)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoyl}-oxazolidin-2-one.

reactant | 4-benzyl-3-[2-(5-hydroxy-4′-trifluoromethyl-biphenyl-3-yl)-4-methyl-pentanoyl]-oxazolidin-2-one | 36.73 mmol, 18.77 g | C(C1=CC=CC=C1)C1N(C(OC1)=O)C(C(CC(C)C)C=1C=C(C=C(C1)O)C1=CC=C(C=C1)C(F)(F)F)=O | C29H28F3NO4
reactant | 1-bromomethyl-3,5-difluoro-benzene | 55.10 mmol, 7.13 mL | BrCC1=CC(=CC(=C1)F)F | C7H5BrF2
reactant | Cs2CO3 | 73.46 mmol, 23.94 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetonitrile | 184 mL | C(C)#N | C2H3N
product | 4-benzyl-3-{2-[5-(3,5-difluoro-benzyloxy)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoyl}-oxazolidin-2-one | C(C1=CC=CC=C1)C1N(C(OC1)=O)C(C(CC(C)C)C=1C=C(C=C(C1)OCC1=CC(=CC(=C1)F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C36H32F5NO4
